US06121271
(2-Benzyl-4,5-dimethyl-furan-3-yl)-(3-bromo-5-ethyl-4-methoxy-phenyl)-methanone
The title compound was prepared according to the procedure in Example 1, step 4, using 3-bromo-5-ethyl-4-methoxybenzoic acid (4.95 g, 19.1 mmol), oxalyl chloride (1.8 mL, 20.7 mmol), N,N-DMF (2 drops), tin(IV) chloride (2.50 mL, 21.4 mmol) and 2-benzyl-2,3-dimethylfuran (4.30 g, 23.1 mmol) to give 7.85 g (96%) of the title compound. 1H NMR: consistent.

reactant | 3-bromo-5-ethyl-4-methoxybenzoic acid | 19.1 mmol, 4.95 g | BrC=1C=C(C(=O)O)C=C(C1OC)CC | C10H11BrO3
reactant | oxalyl chloride | 20.7 mmol, 1.8 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | tin(IV) chloride | 21.4 mmol, 2.50 mL | [Sn](Cl)(Cl)(Cl)Cl
reactant | 2-benzyl-2,3-dimethylfuran | 23.1 mmol, 4.30 g | C(C1=CC=CC=C1)C1(OC=CC1C)C | C13H16O
product | (2-Benzyl-4,5-dimethyl-furan-3-yl)-(3-bromo-5-ethyl-4-methoxy-phenyl)-methanone | 7.85 g, 96% | C(C1=CC=CC=C1)C=1OC(=C(C1C(=O)C1=CC(=C(C(=C1)CC)OC)Br)C)C | C23H23BrO3
